US04956461
(a) Di-tert-butyl N-[4-[N-(2-amino-3-cyanopyrazin-5-yl) methylamino]-benzoyl]-L-glutamate
2-Amino-5-chloromethylpyrazine-3-carbonitrile (1.68 g, 0.01 mol) was added in small portions over 10 min to a stirred solution of di-tert-butyl N-(4-aminobenzoyl)-L-glutamate (3.78 g, 0.01 mol) and i-Pr2NEt (1.74 mL, 1.29 g, 0.01 mol) in dry DMF (25 mL). After 20 hours at room temperature, the solvent was evaporated under reduced pressure and the residue was partitioned between CH2Cl2 and H2O. The organic layer was evaporated and the product purified by column chromatography on a column of neutral Al2O3 (120 g, 3×24 cm) with 50:1 CHCl3 --MeOH as the eluent. Fractions containing the above-specified glutamate (Rf 0.4, silica gel, 9:1 CHCl3 --MeOH) were allowed to evaporate passively in the hood until yellow crystals were formed; yield 3.60 g (59%); mp 71°-78° C; IR (KBr) 3400, 3210, 2990, 2940, 2230 (C≡N), 1730 (ester (C=O), 1635, 1615, 1575, 1515, 1495sh, 1460, 1420, 1395, 1375, 1335, 1315, 1285, 1260 cm-1 ; NMR (CDCl3) δ 1.41 (s, γ-t-OBu), 1.48 (s, α-t-OBu), 2.0-2.4 (m, CH2CH2), 4.37 (m, 2H, CH2NH), 5.35 (m, α-CH and NH), 6.61 (d, J=9 Hz, 3'- and 5'H), 7.67 (d, 9 Hz, 2'- and 4'-H), 8.22 (s, 6--H). Anal. (C26H34N6O5 -0.8 CHCl3) Calcd: C, 53.11; H, 5.79; N, 13.87. Found: C, 53.23; H, 5.94; N, 13.76.

reactant | 2-Amino-5-chloromethylpyrazine-3-carbonitrile | 0.01 mol, 1.68 g | NC1=NC=C(N=C1C#N)CCl | C6H5ClN4
reactant | di-tert-butyl N-(4-aminobenzoyl)-L-glutamate | 0.01 mol, 3.78 g | NC1=CC=C(C(=O)N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C20H30N2O5
reactant | i-Pr2NEt | 0.01 mol, 1.74 mL, 1.29 g | CCN(C(C)C)C(C)C | C8H19N
reactant | KBr | [K+].[Br-]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Di-tert-butyl N-[4-[N-(2-amino-3-cyanopyrazin-5-yl) methylamino]-benzoyl]-L-glutamate | NC1=NC=C(N=C1C#N)CNC1=CC=C(C(=O)N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C26H34N6O5
